US06743939B2
a) [4-(Hydroxyimino)-4-phenylbutyl]carbamic acid, 1,1-dimethylethyl ester
A mixture of 1,1-dimethylethyl 4-oxo-4-phenylbutylcarbamate (2.4 g, 9.1 mmol), hydroxylamine hydrochloride (1.27 g, 2 equiv.) and sodium acetate trihydrate (2.5 g, 2 equiv.) was stirred and heated under reflux in 20% aqueous ethanol (60 ml) for 7 h. The reaction mixture was then concentrated and the residue partitioned between saturated aqueous sodium bicarbonate (100 ml) and ethyl acetate (200 ml). The organic extract was dried over magnesium sulphate and concentrated to afford a colourless solid (2.4 g, 95%).

reactant | 1,1-dimethylethyl 4-oxo-4-phenylbutylcarbamate | 9.1 mmol, 2.4 g | O=C(CCCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C15H21NO3
reactant | hydroxylamine hydrochloride | 1.27 g, 2 equiv. | Cl.NO
reactant | sodium acetate trihydrate | 2.5 g, 2 equiv. | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | [4-(Hydroxyimino)-4-phenylbutyl]carbamic acid, 1,1-dimethylethyl ester | 2.4 g, 95% | ON=C(CCCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C15H22N2O3
